US04439438
Preparation of acetyl carnitine chloride
2 grams of carnitine chloride were dissolved in 20 ml of glacial acetic acid, and acetyl chloride (10 ml) was added thereto. The reaction mixture was kept at room temperature for 48 hours. The excess of acetyl chloride and the solvent were removed under vacuum, by heating on a water bath at 50° C. The residue was crystallized from isopropanol-ethyl ether, and a pure product was thus obtained.

reactant | carnitine chloride | 2 grams | C[N+](C)(C)CC(CC(=O)[O-])O | C7H15NO3
reactant | acetyl chloride | 10 ml | C(C)(=O)Cl | C2H3ClO
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | acetyl carnitine chloride | C(C)(=O)C(O)(C[N+](C)(C)C)CC([O-])=O.[Cl-] | InChI=1S/C9H17NO4.ClH/c1-7(11)9(14,5-8(12)13)6-10(2,3)4;/h14H,5-6H2,1-4H3;1H/p-1
